*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*==============  Begin SPICE netlist of main design ============
* Pin1 - Drain
* Pin2 - Gate
* Pin3 - Source
* Pin4 - Base

* Piecewise Linear Voltage source
*  vclock n1 n2 PWL(t0 v0 t1 v1 t2 v2 ...) + r=0

*Mosfet Mx nd  ng ns   nb  modelName Channel dim (l,w), 
* Channel perimeter/areas - drain/source  pd,ps and ad,as
*MFETN1 nd=Vin ng=2  ns=Vout nb=Vout  model=MOSN  l=3u w=1u pd=40u ps=40u ad=100p as=100p
MFETN1 Vin 2 Vout Vout MOSN  l=3u w=1u pd=40u ps=40u ad=100p as=100p
*V3 Vin 0 dc 0.0 pulse (0 {2*2.5} 10n 10n 100n 1u 2u)
V3 Vin 0 PWL(0 0 20ms 0 
            + 20ms {4*0.3333} 40ms {4*0.3333} 40ms {4*0.6666}
            + 60ms {4*0.6666} 60ms 4 80ms 4 80ms 0 100ms 0) 
             + r=0 
V1 1 0 DC 5V
V2 2 0 DC 3.3V
R2 Vout 2 10K  
R1 Vin 1 10K  
.include spice.inc
.end
