* gnetlist -g spice-sdb -o spice.net x.sch
*********************************************************
* Spice file generated by gnetlist                      *
* spice-sdb version 4.28.2007 by SDB --                 *
* provides advanced spice netlisting capability.        *
* Documentation at http://www.brorson.com/gEDA/SPICE/   *
*********************************************************
*==============  Begin SPICE netlist of main design ============
V4 Vin 0 pwl (0 0 20ms 0  20ms {4*0.3333} 40ms {4*0.3333} 40ms {4*0.6666}  60ms {4*0.6666} 60ms 4 80ms 4 80ms 0 100ms 0) r=0
.INCLUDE spice.inc
M2 Vin 2 Vout Vout nmos4  l=3u w=1u
.MODEL nmos4 NMOS (L=1u W=3u)
V1 1 0 DC 5V
V2 2 0 DC 3.3V
R2 Vout 2 10K  
R1 Vin 1 10K  
.end
